US07786119B2
4-Benzyloxy-3-methoxyphenethyl alcohol (DC-61)
A mixture of homovanillyl alcohol (100 mmol, 17.0 g), benzyl bromide (105 mmol, 18.33 g) and 5M aqueous NaOH (24 mL) in ethanol (200 mL) was refluxed for 6 h. The organic solvent was evaporated in vacuo. The residue was partitioned between brine (200 mL) and diethyl ether (200 mL). The aqueous layer was separated from the organic layer and extracted again with ether. The combined organic layers were dried over MgSO4 and the solvent was evaporated in vacuo. Purification by dry-column chromatography with mixtures of ethyl acetate-hexanes (1:4, 1:3, v/v) yielded 20.66 g (80% yield) of (DC-61) as pale yellow oil. Rf 0.25 (EtOAc-hexanes, 1:1, v/v); 1H-NMR (300 MHz, CDCl3) δ 7.44-7.25 (m, 5H, Ar), 6.84-6.67 (m, 3H, Ar), 5.12 (s, 2H, PhCH2O), 3.88 (s, 3H, CH3O), 3.81 (t, 2H, CH2CH2OH), 2.79 (t, 2H, CH2CH2OH), 1.54 (s, 1H, OH); 13C-NMR (75 MHz, CDCl3, APT) δ 149.63 (+), 146.75 (+), 137.21 (+), 131.60 (+), 128.43 (−), 127.70 (−), 127.17 (−), 120.84 (−), 114.25 (−), 112.74 (−), 71.07 (+), 63.58 (+), 55.90 (−), 38.67 (+).

reactant | homovanillyl alcohol | 100 mmol, 17.0 g | C(CC1=CC(OC)=C(O)C=C1)O | C9H12O3
reactant | benzyl bromide | 105 mmol, 18.33 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaOH | 5M, 24 mL | [OH-].[Na+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | 4-Benzyloxy-3-methoxyphenethyl alcohol | 80% yield | C(C1=CC=CC=C1)OC1=C(C=C(CCO)C=C1)OC | C16H18O3
